US03975375
C. N-dimethylaminocarbonyl-imidazolid-2-one: ##SPC26##
A mixture of 50 parts by volume of a 50% strength aqueous dimethylamine solution and 70 parts by volume of tetrahydrofurane was adjusted to pH = 8 with 5 N hydrochloric acid. 14.9 parts by weight of N-chlorocarbonyl-imidazolid-2-one were added gradually thereto while stirring and cooling with ice and the pH value was maintained by simultaneous addition of further dimethylamine solution. The mixture was further stirred until the pH was constant, the tetrahydrofurane was then stripped off and the residue was saturated with sodium chloride and repeatedly extracted with ethyl acetate. The organic solution was washed and saturated sodium chloride solution, dried over MgSO4 and filtered, and the solvent was evaporated off. The residue was recrystallized from acetone and dried in a vacuum desiccator over P2O5.

reactant | dimethylamine | CNC | C2H7N
reactant | hydrochloric acid | 5 N | Cl | ClH
reactant | N-chlorocarbonyl-imidazolid-2-one | ClC(=O)N1C(NCC1)=O | C4H5ClN2O2
reactant | sodium chloride | [Cl-].[Na+]
solvent | tetrahydrofurane | O1CCCC1 | C4H8O
product | N-dimethylaminocarbonyl-imidazolid-2-one | CN(C(=O)N1C(NCC1)=O)C | C6H11N3O2
